US08431596B2
N-(4-Bromo-phenyl)-3-pyrrolidin-1-yl-propionamide
N-(4-Bromo-phenyl)-acrylamide (0.3 g, 1.33 mmol) was dissolved in ethanol. Pyrrolidine (0.12 ml, 1.46 mmol) was added and the mixture was heated to reflux overnight. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate. Aqueous ammonium chloride was added and the aqueous layer was extracted twice with ethyl acetate. The organics were combined, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to yield the desired product. Yield 0.24 g, 60%. LCMS method: 2, RT: 2.67 min; MI: 297-299 [M+1].

reactant | N-(4-Bromo-phenyl)-acrylamide | 1.33 mmol, 0.3 g | BrC1=CC=C(C=C1)NC(C=C)=O | C9H8BrNO
reactant | Pyrrolidine | 1.46 mmol, 0.12 ml | N1CCCC1 | C4H9N
solvent | ethanol | C(C)O | C2H6O
product | N-(4-Bromo-phenyl)-3-pyrrolidin-1-yl-propionamide | BrC1=CC=C(C=C1)NC(CCN1CCCC1)=O | C13H17BrN2O
